US07897595B2
To a solution of N-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (99.0 mg, 0.30 mmol) in MeCN (5 ml) was added NCS (44.0 mg, 0.33 mmol) at room temperature and the mixture was refluxed for 30 minutes. The reaction was quenched with excess of sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was dried over Na2SO4, concentrated in vacuo and purified by column chromatography to give 40 mg (36%) of 4-chloro-N-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H-NMR (CDCl3) δ 4.39 (0.5H), 4.04 (0.5H), 3.94 (3H), 3.83 (1H), 3.78 (1H), 3.72 (1H), 3.45 (1H), 3.35 (2H), 3.25 (1H), 3.09 (1H), 1.19 (6H) ppm. A mixture of 4chloro-N-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine (37.0 mg, 0.10 mmol), K2CO3 (40 mg), MeOH (1.5 ml) and H2O (0.3 ml) was stirred for 16 h at room temperature. After removal of solvent under reduced pressure, the mixture was taken into aq. NaHCO3 and extracted with DCM. The organic layer was dried and concentrated in vacuo to give 27 mg (93%) of 4-chloro-N-ethyl-2-methoxy-5-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine. 1H-NMR (CDCl3) δ 3.85 (s, 3H), 3.47 (m, 1H), 3.23 (m, 2H), 3.16 (m, 2H), 3.08 (m, 1H), 2.89 (dd, 2H), 2.69 (dd, 1H), 1.22 (d, 3H), 1.09 (t, 3H) ppm.

reactant | N-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine | 0.30 mmol, 99.0 mg | C(C)NC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1OC | C15H20F3N3O2
reactant | NCS | 0.33 mmol, 44.0 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | MeCN | 5 ml | CC#N | C2H3N
product | 4-chloro-N-ethyl-2-methoxy-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-3-amine | 40 mg, 36% | ClC1=C(C(=NC=2CCN(CC(C21)C)C(C(F)(F)F)=O)OC)NCC | C15H19ClF3N3O2
